2188-10-20 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --> Urgent C/S Heme last night
   - no fevers overnight
   - no neurological exam changes on serial exams
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-20**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 71 (66 - 105) bpm
   BP: 139/72(88) {139/66(84) - 153/88(101)} mmHg
   RR: 24 (12 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           1,109 mL
   PO:
           TF:
   IVF:
   633 mL
   Blood products:
   476 mL
   Total out:
                                                                      0 mL
                                                                    475 mL
   Urine:
   475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    634 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General: Thin, Alert, oriented, no acute distress, keeps eyes close
   "for light sensitivity" but does not appear to be somnolent, enunciates
   words at times
   HEENT: Sclera anicteric, Right eye w dilated pupil (from a lens surgery
   in the past) questionable reactivity to light, dry mucus membranes,
   oropharynx clear w no petechia or ulcerations
   Neck: supple, JVP not elevated, 1 cervical lymph node palpable
   nontender
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: right forearm warm, erythematous; able to make weak fist with
   right fist; feet warm, well perfused, 2+ pulses, no clubbing, cyanosis
   or edema
   SKIN: has some bruises on left anterior chest, left forehead, arms
   NEURO: tongue protrudes to the left, decreased sensation on right lower
   face, decreased hearing on right side, decreased sensation of right
   hand, decreased grip w right hand, right arm weaker than left secondary
   to pain
   Labs / Radiology
   115 K/uL
   7.6 g/dL
   131 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   12 mg/dL
   97 mEq/L
   130 mEq/L
   21.3 %
   0.7 K/uL
        [image002.jpg]
                             [**2188-10-19**]  09:46 PM
                             [**2188-10-20**]  04:20 AM
   WBC
   1.0
   0.7
   Hct
   25.1
   21.3
   Plt
   50
   115
   Cr
   0.5
   0.5
   Glucose
   100
   131
   Other labs: PT / PTT / INR:11.7/22.5/1.0, ALT / AST:17/21, Alk Phos / T
   Bili:73/0.9, Differential-Neuts:4.0 %, Band:0.0 %, Lymph:92.0 %,
   Mono:2.0 %, Eos:0.0 %, Albumin:3.4 g/dL, LDH:201 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   81 yo F w hx of seizure, transferred from outside hospital w subdural
   hematoma in setting of pancytopenia of unknown etiology.
   .
   #  Pancytopenia:
   The differential for pancytopenia includes aplastic anemia (especially
   as she was seen to have a hypocellular marrow) secondary to infection
   or drug/toxin vs malignancy.   Malignancy, myelodysplastic
   syndrome/leukemia, or myelofibrosis is very unlikely because the bone
   marrow showed hypocellularity and no fibrosis.  The most likely
   etiology is drug-induced, particularly from tegretol.  Also on the
   differential would be aplastic anemia secondary to infection (HIV),
   megaloblastic anemia, or PNH.  No suggestion of viral infection to have
   provoked aplastic anemia. No signs of blasts in marrow, and malignancy
   would more likely show hypercellular marrow, rather than hypocellular.
   - Will check a CBC with diff, ANC, type and screen, peripheral smear.
   - F/U Heme Recs
   - Transfuse for Hct < 21, platelets <80k for now
   - Cont vit B12  for full 7 days, then switch to monthly
   -  HIV consent and test
   - check EBV and CMV serologies
   - need to get another timepoint of what her CBC has been like-- pt
   remembers last having blood checked in early [**Month (only) 270**] (possibly by her
   Neurologist)
   - continue Neupogen daily and f/u w heme recs for when to stop
   - f/u pending PNH studies
   - be prepared for Febrile Neutropenia -- can start Cefepime after
   pan-culturing if spikes fever
   - Neutropenic precautions
   .
   #  Subdural hematoma:  Patient has recent falls and MRI showing a small
   left subdural hematoma. Does not appear to have any signs of worsening
   subdural hematoma.
   - Keep plt > 80k --> watch post platelet count to make sure appropriate
   bump ; if head CT neg
   - q2h neuro checks
   - head CT to check for increase in bleed
   .
   #  Seizure disorder:
   - Contact primary neurologist and find out more about her seizure hx
   and possibly get rec from him for seizure med if needed
   - consult neuro in the am as the patient has been diagnosed with a
   seizure disorder and has been taken off her tegretol due to concern for
   it as a cause of pancytopenia.
   - Seizure precautions.
   .
   #  Hyponatremia:
   Improved to 130 from 128 last night after given D5NS, improved from 124
   at outside hospital. Appears to by hypovolemic on exam, so may have
   some component of hypovolemic hyponatremia in addition to possible
   SIADH from Tegretol. Tegretol had been stopped at outside hospital.
   TSH normal at outside hospital.
   - 1L D5NS to help rehydrate and see if it improves Na by morning
   - f/u urine lytes and osms
   .
   # Paroxysmal Rapid A-fib:
   Asymptomatic, so may have had hx of paroxysmal Afib without knowing.
   only in rapid Afib w rates in 130s-140s for a few seconds at a time x 2
   episodes, but returned quickly to controlled rates in 60s-70s, so no
   need to intervene at this time. [**Month (only) 11**] be triggered by stress,
   dehydration, infection, though no known history of Afib.
   - cont to monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-10-19**] 10:29 PM
   18 Gauge - [**2188-10-19**] 10:30 PM
   Prophylaxis:
   DVT:  pnemoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Has 6 daughters ([**Name (NI) **] is HCP, [**Name (NI) 8556**] handles
   her meds, [**Name (NI) 469**], [**Doctor Last Name 575**], and the twins)
 phone #s for 3 of them are
   listed in her room
   Code status:  Full
   Disposition:  stable for callout to floor if Head CT comes back Neg

2188-10-20 09:58:00 Physician Attending Progress Note
Chief Complaint: Pancytopenia, seizures, subdural hematoma, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient has been transfused RBCs and platelets overnight with good
   response in platelet count, but drop in Hct. No evidence of
   intravascular hemolysis on smear.
   NS administered for hyponatremia.
   [**Month (only) 11**] have had very transient episode of afib last night.
   24 Hour Events:
 EKG - At [**2188-10-19**] 11:30 PM
 BLOOD CULTURED - At [**2188-10-19**] 11:55 PM
 URINE CULTURE - At [**2188-10-20**] 01:55 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Colace, folic acid, vit B12, thryoxine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-20**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 74 (66 - 105) bpm
   BP: 150/81(97) {139/66(84) - 166/88(101)} mmHg
   RR: 20 (12 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           1,423 mL
   PO:
           TF:
   IVF:
   947 mL
   Blood products:
   476 mL
   Total out:
                                                                      0 mL
                                                                    475 mL
   Urine:
   475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    948 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, Conjunctiva pale, No(t) Sclera edema,
   Right pupil > left
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: 3+), (Left radial pulse: Not
   assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Slight erythema right lower arm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   115 K/uL
   131 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   12 mg/dL
   97 mEq/L
   130 mEq/L
   21.3 %
   0.7 K/uL
        [image002.jpg]
                             [**2188-10-19**]  09:46 PM
                             [**2188-10-20**]  04:20 AM
   WBC
   1.0
   0.7
   Hct
   25.1
   21.3
   Plt
   50
   115
   Cr
   0.5
   0.5
   Glucose
   100
   131
   Other labs: PT / PTT / INR:11.7/22.5/1.0, ALT / AST:17/21, Alk Phos / T
   Bili:73/0.9, Differential-Neuts:4.0 %, Band:0.0 %, Lymph:92.0 %,
   Mono:2.0 %, Eos:0.0 %, Albumin:3.4 g/dL, LDH:201 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 PANCYTOPENIA
 SUBDURAL HEMORRHAGE (SDH)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   SEIZURES
   =====================
   Hct and WBC remain down; platelets have improved. Patient has been
   transfused platelets (to keep platelt count > 80K) and PRBCs.
   AFebrile;  no evidence of infection as cause for pancytopenia. Still
   appears most likely related to tegretol. Being transfused with PRBCs
   now. Monitor platelet count.
   Serum Na slightly improved. Restrict free water mildly.
   Mental status stable. No evidence ofseizures or expanding subdural.
   Replete potassium.
   ICU Care
   Nutrition: Speech and swallow evaluation today
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-10-19**] 10:29 PM
   18 Gauge - [**2188-10-19**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: VAP not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2188-10-21 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Head CT: unclear from OSH reports if it is expanding, but very small
   in our CT. 3 mm.
   - Received OSH CT reports and labs, but did not get the bone marrow bx;
   waiting on CT imaging to be set.
   - arrange w [**Hospital3 **] path dept to send over their bone marrow slides,
   so that we can look at them
   - Hem/Onc want plts greater than 80 and Hct > 21; Transfused 1 bag of
   platelets in the evening for plts of 72, appropriately bumped.
   - Home neurologist, Dr. [**Last Name (STitle) 5389**] from [**Hospital 1534**] hospital. would like to be
   updated on patient. Stated that brand name depakote is OK to use, but
   generic depakote causes halucinations. He thinks depakote ER is ok, but
   family does not want to start anything. His rec is to hold off on meds
   for now and get repeat EEG Wednesday. He is OK with hold seizure meds
   for the time being.
   - Na has been in the 130s. Neurologist said he was following this low
   sodium earlier this month, he feels it is likely related to tegretol.
   - Was given 1 L NS for intravascular volume down and hyponatremia; has
   good urine output
   - Gave 200 mg po labetalol for high BP in 160s systolic.  Re-started
   standing dose labetalol this AM w holding parameters for SBP 140s.
   - Hem/Onc: Tegretol pancytopenia can take 10 days to return to normal.
   Likely see an increase in monocytes first.
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-21**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 82 (64 - 82) bpm
   BP: 163/92(109) {136/70(87) - 172/95(109)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,659 mL
                                                                    242 mL
   PO:
                                                                    600 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,033 mL
                                                                     62 mL
   Blood products:
                                                                  1,026 mL
   Total out:
                                                                  1,625 mL
                                                                  1,000 mL
   Urine:
                                                                  1,625 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,034 mL
                                                                   -758 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General: Thin, Alert, oriented, no acute distress, sitting up in bed,
   eating breakfast
   HEENT: Sclera anicteric, Right eye w dilated pupil (from a lens surgery
   in the past) not reactive to light, left pupil sluggishly reactive,
   somewhat dry mucus membranes, oropharynx clear w no petechia or
   ulcerations
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally,  harsh crackles in bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: right forearm warm, erythematous but improved since yesterday;
   able to make weak fist with right fist; feet warm, well perfused, 2+
   pulses, no clubbing, cyanosis or edema; left medial arm bruising
   superior to IV insertion site but no induration, tender
   SKIN: has some bruises on left anterior chest, left forehead, arms
   NEURO: tongue protrudes to the left, decreased sensation on right lower
   face, decreased hearing on right side, decreased sensation of right
   hand, right hand grip stronger than yesterday but still a little
   limited secondary to pain
   Labs / Radiology
   94 K/uL
   9.0 g/dL
   106 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   10 mg/dL
   101 mEq/L
   131 mEq/L
   25.4 %
   1.0 K/uL
        [image002.jpg]
                             [**2188-10-19**]  09:46 PM
                             [**2188-10-20**]  04:20 AM
                             [**2188-10-20**]  01:45 PM
                             [**2188-10-20**]  08:38 PM
                             [**2188-10-21**]  02:04 AM
   WBC
   1.0
   0.7
   1.0
   1.1
   1.0
   Hct
   25.1
   21.3
   25.3
   24.9
   25.4
   Plt
   50
   115
   97
   72
   94
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   100
   131
   109
   111
   106
   Other labs: PT / PTT / INR:11.7/22.5/1.0, ALT / AST:17/21, Alk Phos / T
   Bili:73/0.9, Differential-Neuts:4.0 %, Band:0.0 %, Lymph:96.0 %,
   Mono:0.0 %, Eos:0.0 %, Albumin:3.4 g/dL, LDH:201 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Granulocyte count: 41
   HEAD CT [**10-20**]:
   1. Hypoattenuating lesion in the frontoparietal region consistent with
   subacute versus chronic infarct. Correlation with outside hospital
   studies
   may further delineate the time course.
   2. Hypoattenuating lesion at the left anterior aspect of the corpus
   callosum
   consistent with subacute versus chronic infarction. Mass effect is seen
   at
   the anterior aspect of the left lateral [**Doctor Last Name **].
   3. Small subdural hematoma in the anterior interhemispheric fissure.
   Assessment and Plan
   81 yo F w hx of seizure, transferred from outside hospital w subdural
   hematoma in setting of pancytopenia of unknown etiology.
   .
   #  Pancytopenia:
   The differential for pancytopenia includes aplastic anemia (especially
   as she was seen to have a hypocellular marrow) secondary to infection
   or drug/toxin vs malignancy.   Malignancy, myelodysplastic
   syndrome/leukemia, or myelofibrosis is very unlikely because the bone
   marrow showed hypocellularity and no fibrosis.  The most likely
   etiology is drug-induced, particularly from tegretol.  Also on the
   differential would be aplastic anemia secondary to infection (HIV),
   megaloblastic anemia, or PNH.  No suggestion of viral infection to have
   provoked aplastic anemia. No signs of blasts in marrow, and malignancy
   would more likely show hypercellular marrow, rather than hypocellular.
   ANC = 40
   - follow CBCs with diff and ANC;  keep type and screen
   - f/u peripheral smear w Heme
   - f/u flow cytometry w Path
   - F/U Heme Recs
   - Transfuse for Hct < 21, platelets <80k for now
 consider switching
   threshold to 50k b/c subdural hematoma seems stable
   - Cont vit B12  for 2 more days (for 7 days total), then switch to
   monthly
   -  HIV test pending
   - f/u EBV and CMV serologies
   - continue Neupogen daily and f/u w heme recs for when to stop
   - f/u pending PNH studies from outside hospital
   - in case of Febrile Neutropenia -- can start Cefepime after
   pan-culturing if spikes fever
   - Neutropenic precautions
   .
   #  Subdural hematoma:  Head CT shows small subdural hematoma but we
   [**Male First Name (un) 344**]
t have the images from outside hospital, so we [**Male First Name (un) 344**]
t know if the
   bleed has actually changed.  Does not clinically appear to have any
   signs of worsening subdural hematoma.
   - try to get Head CT imaging from outside hospital
   - increase interval to q8h neuro checks
   .
   #  Seizure disorder:
   - primary neurologist thinks Depakote ER is ok (and that patient would
   do okay with name brand Depakote but gets hallucinations w generic),
   but family does not want to start anything. His rec is to hold off on
   meds for now and get repeat EEG Wednesday
   - Neuro consult suggests starting Keppra
   - Seizure precautions.
   .
   # Hypertension/CVA
   Lacunar strokes seen by CT.
   - Restarted on labetolol standing [**Hospital1 **] 100mg w holding parameters for it
   to be held <140 systolic
   - Neuro consult this afternoon recommended MRI/MRA to
   - Per neuro, do not restart aspirin until platelets can remain stable
   at 100 without transfusions
   .
   #  Hyponatremia:
   Stable, Improved to 131 from 128 on admission, improved from 124 at
   outside hospital.  Urine osms very high, suggesting SIADH, which is
   known side effect of Tegretol.  Tegretol had been stopped at outside
   hospital.  [**Month (only) 11**] still have some component of hypovolemic hyponatremia.
   - 1.5L free water restrict and monitor for effects of Tegretol to wear
   off
   .
   # Paroxysmal Rapid A-fib:
   Asymptomatic with the 2 episodes the night of admission, but doesn
   appear to have had further episodes overnight. [**Month (only) 11**] have been triggered
   by stress, dehydration, infection (though pt has no known infection at
   this time), though no known history of Afib.
   - cont to monitor, no need to treat at this time
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-10-19**] 10:29 PM
   18 Gauge - [**2188-10-19**] 10:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  6 daughters, oldest [**Name (NI) **] is HCP
   [**Name (NI) 129**] status: Full
   Disposition:

2188-10-21 11:26:00 Physician Attending Progress Note
Chief Complaint: Pancytopenia, seizures, subdural hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Required transfusion of platelets again this AM.
   No evidence of seizure activity.
   Labetalol restarted with increase in BP.
   Afebrile.
   Patient more alert today. Able to feed herself.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Vit B12, folic acid, neupogen, synthroid, labetalol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-21**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 82 (64 - 82) bpm
   BP: 163/92(109) {140/71(87) - 172/95(109)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.8 kg (admission): 50.8 kg
             Total In:
                                                                  3,659 mL
                                                                    351 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,033 mL
                                                                    111 mL
   Blood products:
                                                                  1,026 mL
   Total out:
                                                                  1,625 mL
                                                                  1,400 mL
   Urine:
                                                                  1,625 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,034 mL
                                                                 -1,049 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Bases, left > right, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   94 K/uL
   106 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   10 mg/dL
   101 mEq/L
   131 mEq/L
   25.4 %
   1.0 K/uL
        [image002.jpg]
                             [**2188-10-19**]  09:46 PM
                             [**2188-10-20**]  04:20 AM
                             [**2188-10-20**]  01:45 PM
                             [**2188-10-20**]  08:38 PM
                             [**2188-10-21**]  02:04 AM
   WBC
   1.0
   0.7
   1.0
   1.1
   1.0
   Hct
   25.1
   21.3
   25.3
   24.9
   25.4
   Plt
   50
   115
   97
   72
   94
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   100
   131
   109
   111
   106
   Other labs: PT / PTT / INR:11.7/22.5/1.0, ALT / AST:17/21, Alk Phos / T
   Bili:73/0.9, Differential-Neuts:4.0 %, Band:0.0 %, Lymph:96.0 %,
   Mono:0.0 %, Eos:0.0 %, Albumin:3.4 g/dL, LDH:201 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 PANCYTOPENIA
 SUBDURAL HEMORRHAGE (SDH)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   SEIZURES
   ======================
   Mental status improving as is activity level. Blood counts starting to
   come back a bit, although did require a platelet transfusion today. CT
   scan yesterday; obtaining prior scan from local hospital. Maintaining
   platelet count above 80K.
   No evidence of seizures.
   Serum Na stable at 130. Continues on free water restriction.
   ICU Care
   Nutrition: oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2188-10-19**] 10:29 PM
   18 Gauge - [**2188-10-19**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments: VAP not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2188-10-22 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2188-10-21**] 09:00 PM
 CALLED OUT
   - try to get labs from primary Neurologist's office from early
   [**Month (only) 270**] for comaprison CBC
   - try to get Bone Marrow slides from outside hospital
   - Neuro c/s: started keppra 250mg [**Hospital1 **], wanted MRI/MRA so patient went
   down for MRI last night
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-22**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 63 (61 - 73) bpm
   BP: 140/64(80) {120/61(17) - 149/96(105)} mmHg
   RR: 24 (15 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.8 kg (admission): 50.8 kg
                  Total In:
                                                                    930 mL
                                                                    100 mL
   PO:
                                                                    780 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    500 mL
   Urine:
                                                                  1,900 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -970 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General: Thin, Alert, oriented, no acute distress, sitting up in bed,
   eating breakfast
   HEENT: Sclera anicteric, Right eye w dilated pupil (from a lens surgery
   in the past) not reactive to light, left pupil sluggishly reactive,
   somewhat dry mucus membranes, oropharynx clear w no petechia or
   ulcerations
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally,  harsh crackles in bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: right forearm warm, erythematous but improved since yesterday;
   able to make weak fist with right fist; feet warm, well perfused, 2+
   pulses, no clubbing, cyanosis or edema; left medial arm bruising
   superior to IV insertion site but no induration, tender
   SKIN: has some bruises on left anterior chest, left forehead, arms
   NEURO: tongue protrudes to the left, decreased sensation on right lower
   face, decreased hearing on right side, decreased sensation of right
   hand, right hand grip stronger than yesterday but still a little
   limited secondary to pain
   Labs / Radiology
   29 K/uL
   10.4 g/dL
   102 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.9 mEq/L
   11 mg/dL
   96 mEq/L
   127 mEq/L
   29.7 %
   0.9 K/uL
        [image002.jpg]
                             [**2188-10-19**]  09:46 PM
                             [**2188-10-20**]  04:20 AM
                             [**2188-10-20**]  01:45 PM
                             [**2188-10-20**]  08:38 PM
                             [**2188-10-21**]  02:04 AM
                             [**2188-10-22**]  03:29 AM
   WBC
   1.0
   0.7
   1.0
   1.1
   1.0
   0.9
   Hct
   25.1
   21.3
   25.3
   24.9
   25.4
   29.7
   Plt
   50
   115
   97
   72
   94
   29
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   100
   131
   109
   111
   106
   102
   Other labs: PT / PTT / INR:11.7/22.5/1.0, ALT / AST:17/21, Alk Phos / T
   Bili:73/0.9, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %,
   Mono:0.0 %, Eos:0.0 %, Albumin:3.4 g/dL, LDH:201 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   MRI/MRA:
   Read pending
   Assessment and Plan
   81 yo F w hx of seizure, transferred from outside hospital w subdural
   hematoma in setting of pancytopenia of unknown etiology.
   .
   #  Pancytopenia:
   The differential for pancytopenia includes aplastic anemia (especially
   as she was seen to have a hypocellular marrow) secondary to infection
   or drug/toxin vs malignancy.   Malignancy, myelodysplastic
   syndrome/leukemia, or myelofibrosis is very unlikely because the bone
   marrow showed hypocellularity and no fibrosis.  The most likely
   etiology is drug-induced, particularly from tegretol.  Also on the
   differential would be aplastic anemia secondary to infection (HIV),
   megaloblastic anemia, or PNH.  No suggestion of viral infection to have
   provoked aplastic anemia. No signs of blasts in marrow, and malignancy
   would more likely show hypercellular marrow, rather than hypocellular.
   ANC = 40
   - follow CBCs with diff and ANC;  keep type and screen
   - f/u peripheral smear w Heme
   - f/u flow cytometry w Path
   - F/U Heme Recs
   - Transfuse for Hct < 21, platelets <80k for now
 consider switching
   threshold to 50k b/c subdural hematoma seems stable
   - Cont vit B12  for 2 more days (for 7 days total), then switch to
   monthly
   -  HIV test pending
   - f/u EBV and CMV serologies
   - continue Neupogen daily and f/u w heme recs for when to stop
   - f/u pending PNH studies from outside hospital
   - in case of Febrile Neutropenia -- can start Cefepime after
   pan-culturing if spikes fever
   - Neutropenic precautions
   .
   #  Subdural hematoma:  Head CT shows small subdural hematoma but we
   [**Male First Name (un) 344**]
t have the images from outside hospital, so we [**Male First Name (un) 344**]
t know if the
   bleed has actually changed.  Does not clinically appear to have any
   signs of worsening subdural hematoma.
   - try to get Head CT imaging from outside hospital
   - increase interval to q8h neuro checks
   .
   #  Seizure disorder:
   - primary neurologist thinks Depakote ER is ok (and that patient would
   do okay with name brand Depakote but gets hallucinations w generic),
   but family does not want to start anything. His rec is to hold off on
   meds for now and get repeat EEG Wednesday
   - Neuro consult suggests starting Keppra
   - Seizure precautions.
   .
   # Hypertension/CVA
   Lacunar strokes seen by CT.
   - Restarted on labetolol standing [**Hospital1 **] 100mg w holding parameters for it
   to be held <140 systolic
   - Neuro consult this afternoon recommended MRI/MRA to
   - Per neuro, do not restart aspirin until platelets can remain stable
   at 100 without transfusions
   .
   #  Hyponatremia:
   Stable, Improved to 131 from 128 on admission, improved from 124 at
   outside hospital.  Urine osms very high, suggesting SIADH, which is
   known side effect of Tegretol.  Tegretol had been stopped at outside
   hospital.  [**Month (only) 11**] still have some component of hypovolemic hyponatremia.
   - 1.5L free water restrict and monitor for effects of Tegretol to wear
   off
   .
   # Paroxysmal Rapid A-fib:
   Asymptomatic with the 2 episodes the night of admission, but doesn
   appear to have had further episodes overnight. [**Month (only) 11**] have been triggered
   by stress, dehydration, infection (though pt has no known infection at
   this time), though no known history of Afib.
   - cont to monitor, no need to treat at this time
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-10-19**] 10:29 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-10-22 11:10:00 Physician Attending Progress Note
Chief Complaint: Pancytopenia, subdural hematoma, seizures,
   hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No evidence of seizures. Mental status has been stable.  Serum Na
   continuing to fall.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2188-10-21**] 09:00 PM
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Folic acid, vit D, thyroxine, labetalol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-22**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.4
   HR: 63 (62 - 73) bpm
   BP: 128/67(82) {128/61(17) - 149/96(105)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.8 kg (admission): 50.8 kg
             Total In:
                                                                    930 mL
                                                                    166 mL
   PO:
                                                                    780 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    150 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    500 mL
   Urine:
                                                                  1,900 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -970 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, right pupil larger than left
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Few, scattered, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   29 K/uL
   102 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.9 mEq/L
   11 mg/dL
   96 mEq/L
   127 mEq/L
   29.7 %
   0.9 K/uL
        [image002.jpg]
                             [**2188-10-19**]  09:46 PM
                             [**2188-10-20**]  04:20 AM
                             [**2188-10-20**]  01:45 PM
                             [**2188-10-20**]  08:38 PM
                             [**2188-10-21**]  02:04 AM
                             [**2188-10-22**]  03:29 AM
   WBC
   1.0
   0.7
   1.0
   1.1
   1.0
   0.9
   Hct
   25.1
   21.3
   25.3
   24.9
   25.4
   29.7
   Plt
   50
   115
   97
   72
   94
   29
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   100
   131
   109
   111
   106
   102
   Other labs: PT / PTT / INR:11.7/22.5/1.0, ALT / AST:17/21, Alk Phos / T
   Bili:73/0.9, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %,
   Mono:0.0 %, Eos:0.0 %, Albumin:3.4 g/dL, LDH:201 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging: MRI: evidence of subacute/chronic ischemic stroke. Narrowing
   of MCA and left vertebral artery. Subdural hematoma.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 PANCYTOPENIA
 SUBDURAL HEMORRHAGE (SDH)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   HYPONATREMIA
   ====================
   Cell counts generally stable; platelets are trending down, howver, and
   will get transfusion today. Hct up slightly.
   Subdural hematoma appears to have stabilized. Continue to transfuse
   platelets in effort to keep count > 80K.
   Kepra started for seizures.
   Serum sodium down more today. Continue free water restriction. Mucus
   membranes dry; will give NS today.
   ICU Care
   Nutrition: oral with free water restriction
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-10-19**] 10:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: VAP protocol not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes